US04948794
A solution of 1.1 g (5.0 mmol) 4-methylamino-3-nitrobenzotrifluoride in 200 ml ethanol was hydrogenated at atm. pressure by using 5% Pd-C (0.15 g) as a catalyst. The reaction mixture was filtered and evaporated in vacuo to give 3-amino-4-methylaminobenzotrifluoride as crystals.

reactant | 4-methylamino-3-nitrobenzotrifluoride | 5.0 mmol, 1.1 g | CNC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C8H7F3N2O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Pd-C | 0.15 g | [Pd] | Pd
product | 3-amino-4-methylaminobenzotrifluoride | NC=1C=C(C=CC1NC)C(F)(F)F | C8H9F3N2
